US08097708B2
Synthesis of 1-(oxiran-2-ylmethyl)pyrrolidine
By using pyrrolidine (3 ml) and (±)-epichlorohydrin (2.9 ml) as starting materials, the title compound (2.10 g) was obtained in the same manner as that of Reference Example 33.

reactant | pyrrolidine | 3 ml | N1CCCC1 | C4H9N
reactant | (±)-epichlorohydrin | 2.9 ml | C(Cl)C1CO1 | C3H5ClO
product | 1-(oxiran-2-ylmethyl)pyrrolidine | 2.10 g | O1C(C1)CN1CCCC1 | C7H13NO
